US07462630B2
Synthesis of N-(t-butyl)-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanamide
100 mg (0.268 mmol) of 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoic acid, 23.5 mg (0.321 mmol) of t-butylamine, 3 mg (0.03 mmol) of 4-dimethylaminopyridine and 77.1 mg (0.402 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride were dissolved in 1 ml of dichloromethane. 35.2 mg (0.348 mmol) of triethylamine was added to the obtained solution, and they were stirred overnight. The obtained product was purified by the silica gel chromatography (hexane:ethyl acetate=2:1 to 4:6) to obtain the title compound.

reactant | 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoic acid | 0.268 mmol, 100 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CCC(=O)O)=O | C24H23NO3
reactant | t-butylamine | 0.321 mmol, 23.5 mg | C(C)(C)(C)N | C4H11N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.402 mmol, 77.1 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.348 mmol, 35.2 mg | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(t-butyl)-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanamide | C(C)(C)(C)NC(CCC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C28H32N2O2
